US07790737B2
A solution of N-(cyclopentylmethyl)-N-ethyl-6-methoxy-2-[(methoxymethoxy)methyl]pyridin-3-amine (8.39 g, 27.2 mmol) in a mixture of dioxane (400 mL) and water (100 mL) was added dropwise with concentrated hydrochloric acid (20 mL), and the mixture was stirred at 50° C. for 19 hours. The reaction mixture was made basic by adding aqueous sodium hydroxide, and extracted with ethyl acetate. The organic layers were combined, washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=15:1) to obtain {3-[(cyclopentylmethyl)(ethyl)amino]-6-methoxypyridin-2-yl}methanol (6.72 g, 94%) as pale yellow oil.

reactant | N-(cyclopentylmethyl)-N-ethyl-6-methoxy-2-[(methoxymethoxy)methyl]pyridin-3-amine | 27.2 mmol, 8.39 g | C1(CCCC1)CN(C=1C(=NC(=CC1)OC)COCOC)CC | C17H28N2O3
reactant | hydrochloric acid | 20 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | {3-[(cyclopentylmethyl)(ethyl)amino]-6-methoxypyridin-2-yl}methanol | 6.72 g, 94% | C1(CCCC1)CN(C=1C(=NC(=CC1)OC)CO)CC | C15H24N2O2
